US07923450B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-methyl-3-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (52 mg, 0.20 mmol) and of crude 6-bromo-2-(4-methyl-3-trifluoromethyl-phenyl)-cyclohexanone (70 mg, 0.21 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (17 mg, 15%) as a pale-brown oil. MS ISP (m/e): 499.0 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.64 (s, 1H), 7.42 (s, 1H), 7.33 (s, 1H), 7.20 (s, 2H), 7.09 (d, 1H), 6.82 (s, 1H), 6.65 (d, 1H), 4.04 (m, 1H), 3.52 (s, 3H), 2.77 (m, 2H), 2.44 (s, 3H), 2.29 (s, 3H), 2.22 (m, 1H), 1.78-2.03 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.20 mmol, 52 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-(4-methyl-3-trifluoromethyl-phenyl)-cyclohexanone | 0.21 mmol, 70 mg | BrC1CCCC(C1=O)C1=CC(=C(C=C1)C)C(F)(F)F | C14H14BrF3O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(4-methyl-3-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine | 17 mg, 15% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)C2=CC(=C(C=C2)C)C(F)(F)F | C26H25F3N4OS
